US20010001799A1
A mixture of 1.34 g of (E)- and/or (Z)-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-N-hydroxy-4,5-dimethoxy-benzamidine, 1.20 ml of DBU and 0.61 ml of acetic anhydride in 50 ml of DMF was stirred for 1 hr. at room temperature and subsequently for 2 hrs. at 80° C. Subsequently, the DMF was removed in a vacuum and the residue was taken up in ethyl acetate. The ethyl acetate phase was washed with water and saturated NaCl solution and, after removal of the solvent, the residue was purified by column chromatography (CH2Cl2/ethyl acetate). There were obtained 0.43 g of 3-[2-(5,5-dimethyl-[1,3]dioxan-2-yl)-4,5-dimethoxy-phenyl]-5-methyl-[1,2,4]oxadiazole as a white solid; MS: 334 ([M]+).

reactant | (Z)-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-N-hydroxy-4,5-dimethoxy-benzamidine | CC1(COC(OC1)C1=C(/C(=N/[H])/NO)C=C(C(=C1)OC)OC)C | C15H22N2O5
reactant | DBU | 1.20 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetic anhydride | 0.61 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[2-(5,5-dimethyl-[1,3]dioxan-2-yl)-4,5-dimethoxy-phenyl]-5-methyl-[1,2,4]oxadiazole | 0.43 g | CC1(COC(OC1)C1=C(C=C(C(=C1)OC)OC)C1=NOC(=N1)C)C | C17H22N2O5
